US07279580B2
A mixture of lithium diisopropylamide (2 M in heptane/THF/ethylbenzene, stabilised with 0.5% w/w LiBr; 3.8 ml, 7.6 mmol) and THF (3 ml) was cooled to −78° C. and a solution of 2-chloro-3-fluoropyridine (1.0 g, 7.6 mmol) in THF (2 ml) was added dropwise over 1 min. After 2 h, a solution of hexachloroethane (2.0 g, 8.4 mmol) in THF (3 ml) was added dropwise and stirring continued for 2 h before quenching with saturated aqueous NH4Cl solution (20 ml) and extraction of the reaction product with EtOAc (100 ml). The organic phase was dried over anhydrous MgSO4 and concentrated in vacuo. The crude material was purified by column chromatography (silica; 15% Et2O/isohexane) to afford 2,4-dichloro-3-fluoropyridine (795 mg, 63%): δH (400 MHz, CDCl3) 7.34 (1H, t, J 5.1), 8.13 (1H, d, J 5.1); m/z (ES+) 166 (100%, [MH]+).

reactant | lithium diisopropylamide | 7.6 mmol, 2 M, 3.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chloro-3-fluoropyridine | 7.6 mmol, 1.0 g | ClC1=NC=CC=C1F | C5H3ClFN
reactant | hexachloroethane | 8.4 mmol, 2.0 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2,4-dichloro-3-fluoropyridine | 795 mg, 63% | ClC1=NC=CC(=C1F)Cl | C5H2Cl2FN
